US07365193B2
2,7-Bis[(3S)-1-azabicyclo[2.2.2]octan-3-yloxy]-fluoren-9-one
To a 0° C. mixture of 2,7-dihydroxyfluoren-9-one (113 mg, 0.533 mmol; see Synth. Commun. 1976, 6, 371), (3R)-quinuclidin-3-ol (280 mg, 2.20 mmol; Acros), and polymer-bound triphenylphosphine (933 mg, 3 mmol/g; Aldrich) in THF (5 mL) was added diethylazodicarboxylate (340 μL, 2.16 mmol; Aldrich). After 1 h, the reaction mixture was allowed to warm to room temperature and was stirred over the weekend. The mixture was filtered through diatomaceous earth, the filter pad rinsed with ethyl acetate, and the organic extracts purified by flash chromatography (35 g silica gel, eluting with 2-10% of 10% NH4OH/MeOH in CH2Cl2). Acetonitrile was then added to the residue, and the resulting precipitate collected by filtration to yield the title compound (53 mg, 0.12 mmol, 23% yield). MS (DCl/NH3): m/z 431 (M+1)+.

reactant | 2,7-dihydroxyfluoren-9-one | 0.533 mmol, 113 mg | OC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)=O | C13H8O3
reactant | (3R)-quinuclidin-3-ol | 2.20 mmol, 280 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | triphenylphosphine | 933 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 2.16 mmol, 340 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,7-Bis[(3S)-1-azabicyclo[2.2.2]octan-3-yloxy]-fluoren-9-one | 0.12 mmol, 53 mg, 23% yield | N12C[C@H](C(CC1)CC2)OC2=CC=1C(C3=CC(=CC=C3C1C=C2)O[C@@H]2CN1CCC2CC1)=O | C27H30N2O3
